US04210754
5.55 G. of p-chlorobenzoic acid p-nitrophenyl ester are added to a solution of 2.6 g. of N-(2-aminoethyl)-morpholine in 100 ml. of tetrahydrofuran and the mixture is allowed to stand overnight at room temperature. It is then evaporated to dryness and the residue is taken up in 200 ml. of methylene chloride. The methylene chloride solution is washed three times with 50 ml. of a 1% sodium hydroxide solution each time and twice with 50 ml. of water each time until neutral, dried over sodium sulfate and evaporated to dryness. The residue is recrystallized from isopropanol, and 3.1 g. of p-chloro-N-(2-morpholinoethyl)-benzamide are obtained, which is identical to the product obtained in Example 1.

reactant | p-chlorobenzoic acid p-nitrophenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(C1=CC=C(C=C1)Cl)=O | C13H8ClNO4
reactant | N-(2-aminoethyl)-morpholine | NCCN1CCOCC1 | C6H14N2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | p-chloro-N-(2-morpholinoethyl)-benzamide | ClC1=CC=C(C(=O)NCCN2CCOCC2)C=C1 | C13H17ClN2O2
